

* expanding   symbol:  libs/core_digital/schem/programmable_nfet.sym # of pins=9 (removing body pin)
** sym_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sch
.subckt programmable_nfet_w11P4_l0P5_nf1_mult3 d g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<1>:I ena<0>:I d:B s:B b:I
M1 d net2 s VSS nfet_03v3 L=0.5u W=11.4u nf=1 m=3
M3 d net1 s VSS nfet_03v3 L=0.5u W=22.8u nf=2 m=3
M2 net1 ena_bar<1> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena_bar<0> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s VSS nfet_03v3 L=0.5u W=11.4u nf=1 m=3
.ends

** sch_path: /foss/designs/libs/core_digital/schem/programmable_nfet.sch
.subckt programmable_nfet_w22P8_l1_nf1_mult3 d g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<1>:I ena<0>:I d:B s:B b:I
M1 d net2 s VSS nfet_03v3 L=1u W=22.8u nf=1 m=3
M3 d net1 s VSS nfet_03v3 L=1u W=45.6u nf=2 m=3
M2 net1 ena_bar<1> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena_bar<0> VSS VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s VSS nfet_03v3 L=1u W=22.8u nf=1 m=3
.ends


* expanding   symbol:  libs/core_digital/schem/programmable_pfet.sym # of pins=9
** sym_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sym
** sch_path: /foss/designs/libs/core_digital/schem/programmable_pfet.sch
.subckt programmable_pfet_w50_l0P5_nf1_mult2 d b g s ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS
*.PININFO VSS:I VDD:I g:I ena_bar<1>:I ena_bar<0>:I ena<0>:I s:B d:B b:I ena<1>:I
M1 d net2 s b pfet_03v3 L=0.5u W=50u nf=1 m=2
M3 d net1 s b pfet_03v3 L=0.5u W=100u nf=2 m=2
M2 net1 ena<1> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net2 ena<0> VDD VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
x1 ena_bar<0> VDD net2 g VSS ena<0> transmission_gate
x2 ena_bar<1> VDD net1 g VSS ena<1> transmission_gate
M5 d g s b pfet_03v3 L=0.5u W=50u nf=1 m=2
.ends



* expanding   symbol:  libs/core_digital/schem/transmission_gate.sym # of pins=6
** sym_path: /foss/designs/libs/core_digital/schem/transmission_gate.sym
** sch_path: /foss/designs/libs/core_digital/schem/transmission_gate.sch
.subckt transmission_gate ena_bar VDD out in VSS ena
*.PININFO in:I ena_bar:I ena:I VSS:I VDD:I out:O
M1 in ena_bar out VDD pfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 in ena out VSS nfet_03v3 L=0.28u W=0.42u nf=1 m=1
.ends

** sch_path: /foss/designs/libs/core_amps/ota_5t/prgram_schem/programmable_5tOTA.sch
.subckt programmable_5tOTA VDD ena<0> ena_bar<0> vout ena<1> ena_bar<1> vin- vin+ V_bias VSS
*.PININFO VDD:I vout:O vin+:I vin-:I V_bias:I VSS:I ena<0>:I ena_bar<0>:I ena<1>:I ena_bar<1>:I
x1 net1 vin+ net2 ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS programmable_nfet_w11P4_l0P5_nf1_mult3
x2 vout vin- net2 ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS programmable_nfet_w11P4_l0P5_nf1_mult3
x4 vout VDD net1 VDD ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS programmable_pfet_w50_l0P5_nf1_mult2
x3 net1 VDD net1 VDD ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS programmable_pfet_w50_l0P5_nf1_mult2
x5 net2 V_bias VSS ena_bar<0> VDD ena_bar<1> ena<0> ena<1> VSS programmable_nfet_w22P8_l1_nf1_mult3
.ends